US07452993B2
A mixture of 2-Bromo-7-(2-methoxy-phenyl)-5-(toluene-4-sulfonyl)-5H-pyrrolo[2,3-b]pyrazine (30 mg, 0.065 mmol), 3-dimethylaminocarbonylphenyl boronic acid (25.3 mg, 0.130 mmol) and dichlorobis(triphenylphosphino)palladium(II) (2.5 mg, 0.003 mmol) in acetonitrile (1 mL) and aqueous solution of sodium bicarbonate (2M, 1 mL) was irradiated in a Personal Chemistry Optimizer at 90° C. for 15 minutes. The crude reaction mixture was distributed between dichloromethane and a saturated aqueous solution of sodium bicarbonate. The aqueous phase was then extracted with dichloromethane and the combined organic phases were dried over sodium sulfate, filtered and concentrated. The crude brown residue was then dissolved in MeOH (5 mL), 5N KOH (50 μL) and the mixture was stirred at room temperature for 75 minutes. Removal of the solvents resulted in a yellow residue, which was then purified by flash silica gel chromatography using a gradient of ethyl acetate in hexanes, then 10% MeOH in EtOAc to afford 3-[7-(2-Methoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-N,N-dimethyl-benzamide (13.0 mg, 54% yield) as a pale yellow solid. 1H-NMR (500 MHz, CD3OD) δ8.89 (m, 1H), 8.80 (m, 1H), 8.40 (m, 1H), 8.25 (m, 2H), 7.62 (m, 1H), 7.50 (m, 1H), 7.25 (m, 1H), 7.10 (m, 2H), 3.97 (m, 3H), 3.17 (m, 3H), 3.10 (m, 3H).

reactant | 2-Bromo-7-(2-methoxy-phenyl)-5-(toluene-4-sulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 0.065 mmol, 30 mg | BrC=1N=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C20H16BrN3O3S
reactant | 3-dimethylaminocarbonylphenyl boronic acid | 0.130 mmol, 25.3 mg | CN(C(=O)C=1C=C(C=CC1)B(O)O)C | C9H12BNO3
reactant | sodium bicarbonate | 2M, 1 mL | C([O-])(O)=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphino)palladium(II) | 0.003 mmol, 2.5 mg | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
solvent | MeOH | CO | CH4O
product | 3-[7-(2-Methoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-N,N-dimethyl-benzamide | 13.0 mg, 54% yield | COC1=C(C=CC=C1)C1=CNC2=NC=C(N=C21)C=2C=C(C(=O)N(C)C)C=CC2 | C22H20N4O2
